* c:\users\heman\esim-workspace\johnson_amv_hemanth\johnson_amv_hemanth.cir

.include NPN.lib
.include LED.lib
r1  net-_r1-pad1_ net-_d1-pad1_ 1k
r2  net-_r1-pad1_ net-_c1-pad2_ 68k
r3  net-_r1-pad1_ net-_c2-pad2_ 68k
r4  net-_r1-pad1_ net-_d2-pad1_ 1k
d1 net-_d1-pad1_ net-_c1-pad1_ LED
d2 net-_d2-pad1_ clk LED
c1  net-_c1-pad1_ net-_c1-pad2_ 22u
c2  clk net-_c2-pad2_ 22u
q1 net-_c1-pad1_ net-_c2-pad2_ gnd Q2N2222
q2 clk net-_c1-pad2_ gnd Q2N2222
v1  net-_r1-pad1_ gnd 6.5
* u2  clk plot_v1
* u4  clk net-_u4-pad2_ net-_u3-pad1_ net-_u3-pad2_ adc_bridge_2
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ johnson_counter
* u5  net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ out3 out2 out1 out0 dac_bridge_4
v2  net-_u4-pad2_ gnd pulse(0 5 0.1m 0.1m 0.1m 1 2)
* u9  out2 plot_v1
* u6  out0 plot_v1
* u8  out1 plot_v1
* u7  out3 plot_v1
a1 [clk net-_u4-pad2_ ] [net-_u3-pad1_ net-_u3-pad2_ ] u4
a2 [net-_u3-pad1_ ] [net-_u3-pad2_ ] [net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ ] u3
a3 [net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ ] [out3 out2 out1 out0 ] u5
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             johnson_counter, NgSpice Name: johnson_counter
.model u3 johnson_counter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 5e-00 35e-00 12e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out3)+6 v(out2)+12 v(out1)+18 v(out0)+24 v(clk)+30
.endc
.end
